US04358591
Following the method of Example 2, 4-fluoroaniline (0.05 mol) is reacted with α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide (0.05 mol) and heated at reflux in tetralin to yield 5-cyano-1-(4-fluorophenyl)uracil, which is then reacted with trichloromethanesulfenyl chloride, in NaOH and dichloromethane, to yield the final product, 5-cyano-1-(4-fluorophenyl)-3-trichloromethanesulfenyluracil, m.p. 163°-165.5°.

reactant | 4-fluoroaniline | 0.05 mol | FC1=CC=C(N)C=C1 | C6H6FN
reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | 0.05 mol | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
solvent | tetralin | C1CCCC2=CC=CC=C12 | C10H12
product | 5-cyano-1-(4-fluorophenyl)uracil | C(#N)C=1C(NC(N(C1)C1=CC=C(C=C1)F)=O)=O | C11H6FN3O2
